US04762829
N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenyl)-N',N'-dimethylethylenediamine
4.4 g of N,N-dimethylethylenediamine was dissolved in 40 ml of dioxane. 5 ml of pyridine was added to the solution. 17.6 g of 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenyl bromide was added thereto and the mixture was heated under reflux for 2 h and poured in ice-water. After extraction with n-hexane followed by washing with water and concentration, the resulting reaction mixture was treated by alumina column chromatography to obtain 6 g (33%) of the title compound as a colorless oil.

reactant | N,N-dimethylethylenediamine | 4.4 g | CN(CCN)C | C4H12N2
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenyl bromide | 17.6 g | CC(=CCBr)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H33Br
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenyl)-N',N'-dimethylethylenediamine | 6 g, 33% | CC(=CCNCCN(C)C)CCC=C(CCC=C(CCC=C(C)C)C)C | C24H44N2
